US07459562B2
E) tert-Butyl 4-(2-(4-(4-amino-2-fluorophenoxy)pyridin-3-yl)ethynyl)cyclohex-3-enylcarbamate
A mixture of tert-butyl 4-(2-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)ethynyl)cyclohex-3-enylcarbamate (110 mg, 0.24 mmol), iron powder, ˜325 mesh (150 mg, 2.7 mmol), NH4Cl (280 mg, 5.3 mmol), DMF (1 mL), H2O (1 mL) and EtOH (1 mL) was heated at 100° C. for 30 minutes. The mixture was filtered through a pad of Celite® using DMF to wash the filter cake and the filtrate made basic to pH 8 with saturated aq. NaHCO3 solution. The mixture was extracted twice with EtOAc and dried (MgSO4) and concentrated in vacuo to give the title compound (105 mg) which was used without any further purification. MS(ESI+): m/z 424.27 (M+H)+.

reactant | tert-butyl 4-(2-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)ethynyl)cyclohex-3-enylcarbamate | 0.24 mmol, 110 mg | FC1=C(OC2=C(C=NC=C2)C#CC2=CCC(CC2)NC(OC(C)(C)C)=O)C=CC(=C1)[N+](=O)[O-] | C24H24FN3O5
reactant | NH4Cl | 5.3 mmol, 280 mg | [NH4+].[Cl-]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | H2O | 1 mL | O | H2O
catalyst | iron | [Fe] | Fe
solvent | EtOH | 1 mL | CCO | C2H6O
product | tert-Butyl 4-(2-(4-(4-amino-2-fluorophenoxy)pyridin-3-yl)ethynyl)cyclohex-3-enylcarbamate | 105 mg | NC1=CC(=C(OC2=C(C=NC=C2)C#CC2=CCC(CC2)NC(OC(C)(C)C)=O)C=C1)F | C24H26FN3O3
